US06747053B2
To 85 mg (0.25 mM) 6-Hydroxy-1H-indole-2-carboxylic acid [2-(cyanomethyl-carbamoyl)-cyclohexyl]-amide in 5 ml dichloromethane at 0° C. was added 144 mg (1 mM) 2-(4-Methyl-piperazin-1-yl)-ethanol, 262 mg (1 mM) triphenylphosphine and 131 mg (0.75 mM) DEAD. After several hours the mixture was allowed to warm to room temperature and stir overnight. The reaction mixture was purified directly on a preparative TLC plate and eluted with 10% methanol/dichloromethane. The product was then partitioned between 1 M HCl and ethyl acetate, the aqueous layer was neutralized and extracted with ethyl acetate, dried over magnesium sulfate and stripped to give 18.9 mg 6-[2-(4-Methyl-piperazin-1-yl)-ethoxy]-1H-indole-2-carboxylic acid [2-(cyanomethyl-carbamoyl)-cyclohexyl]-amide.

reactant | 6-Hydroxy-1H-indole-2-carboxylic acid [2-(cyanomethyl-carbamoyl)-cyclohexyl]-amide | 0.25 mM, 85 mg | C(#N)CNC(=O)C1C(CCCC1)NC(=O)C=1NC2=CC(=CC=C2C1)O | C18H20N4O3
reactant | 2-(4-Methyl-piperazin-1-yl)-ethanol | 1 mM, 144 mg | CN1CCN(CC1)CCO | C7H16N2O
reactant | triphenylphosphine | 1 mM, 262 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.75 mM, 131 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 6-[2-(4-Methyl-piperazin-1-yl)-ethoxy]-1H-indole-2-carboxylic acid [2-(cyanomethyl-carbamoyl)-cyclohexyl]-amide | 18.9 mg | C(#N)CNC(=O)C1C(CCCC1)NC(=O)C=1NC2=CC(=CC=C2C1)OCCN1CCN(CC1)C | C25H34N6O3
